US07425568B2
b) Acetic Acid 2,5-bis(benzyloxy)phenyl Ester
A solution of 1-[2,5-bis(benzyloxy)phenyl]ethanone (2.25 g) and peracetic acid 40% (1.63 ml) in acetic acid (5.4 ml) was stirred at 60° C. for 1 h. After cooling to room temperature the precipitated product was collected by filtration, washed with cold ether and dried under reduced pressure. Acetic acid 2,5-bis(benzyloxy)phenyl ester was recrystallized from 2-propanol. Yield is 1.87 g. 1H NMR (DMSO-d6) 2.23 (s, 1H), 5.03 (s, 2H), 5.05 (s, 2H), 6.84-7.44 (m, 13H).

reactant | 1-[2,5-bis(benzyloxy)phenyl]ethanone | 2.25 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(C)=O | C22H20O3
reactant | peracetic acid | 1.63 ml | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 5.4 ml | C(C)(=O)O | C2H4O2
product | Acetic Acid 2,5-bis(benzyloxy)phenyl Ester | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)OC(C)=O | C22H20O4
